US09193721B2
Step F: Methyl 5-chloro-2-(3-fluorophenyl)-6-[(formylamino)methyl]nicotinate
Methyl 6-(aminomethyl)-5-chloro-2-(3-fluorophenyl)nicotinate (1.1 g, 3.7 mmol) was stirred in formic acid (10 mL) and heated to 90° C. for 10 hours. Evaporation gave the crude material which was contaminated with the corresponding dechlorinated byproduct (1.1 g, quantitative). LCMS calculated for C15H13ClFN2O3 (M+H)+: m/z=323.1. found: 322.9.

reactant | Methyl 6-(aminomethyl)-5-chloro-2-(3-fluorophenyl)nicotinate | 3.7 mmol, 1.1 g | NCC1=NC(=C(C(=O)OC)C=C1Cl)C1=CC(=CC=C1)F | C14H12ClFN2O2
reactant | formic acid | 10 mL | C(=O)O | CH2O2
product | Methyl 5-chloro-2-(3-fluorophenyl)-6-[(formylamino)methyl]nicotinate | ClC=1C(=NC(=C(C(=O)OC)C1)C1=CC(=CC=C1)F)CNC=O | C15H12ClFN2O3
